US07015218B1
1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(N,N-dimethylamino)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (3.3 g) and 5-amino-2-[4-(N,N-dimethylamino)piperidin-1-yl]benzonitrile (2.9 g), the title compound (1.7 g) was obtained, melting point: 210–213° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 3.3 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-[4-(N,N-dimethylamino)piperidin-1-yl]benzonitrile | 2.9 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N(C)C | C14H20N4
product | 1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(N,N-dimethylamino)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide | 1.7 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N(C)C)C#N | C25H27ClN6O
